US09227923B2
N-[2-Ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-1-oxoindane-5-carboxamide (2.4 g) was dissolved in ethanol (40 ml), and sodium acetate (0.85 g) and hydroxylamine hydrochloride (0.43 g) were added thereto, and then stirred and heated at reflux temperature for 2 hours. The reaction solution was brought back to room temperature and diluted with water. The resulting crystals were collected by filtration and dried to obtain N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-1-(hydroxyimino) indane-5-carboxamide (2.3 g, yield 91%).

reactant | N-[2-Ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-1-oxoindane-5-carboxamide | 2.4 g | C(C)C1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C)NC(=O)C=1C=C2CCC(C2=CC1)=O | C22H18F7NO2
reactant | sodium acetate | 0.85 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.43 g | Cl.NO
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-1-(hydroxyimino) indane-5-carboxamide | 2.3 g, yield 91% | C(C)C1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C)NC(=O)C=1C=C2CCC(C2=CC1)=NO | C22H19F7N2O2
